US08476286B2
A. Synthesis of 2-isopropylamino-4,5-dimethoxy-benzonitrile
A suspension of 4.52 g (25.4 mmol) 2-amino-4,5-dimethoxy-benzonitrile, 4.38 g (31.7 mmol) potassium carbonate and 100 mg copper powder in 15 ml 2-iodo-propane is stirred at 90° C. for 5 days. Extractive work-up with ethyl acetate/water and concentration i.V. affords a dark oil, which is purified by flash chromatography (ethyl acetate/hexane). yield: 4.15 g (74%) yellow oil.

reactant | 2-amino-4,5-dimethoxy-benzonitrile | 25.4 mmol, 4.52 g | NC1=C(C#N)C=C(C(=C1)OC)OC | C9H10N2O2
reactant | potassium carbonate | 31.7 mmol, 4.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-iodo-propane | 15 ml | IC(C)C | C3H7I
catalyst | copper | 100 mg | [Cu] | Cu
product | 2-isopropylamino-4,5-dimethoxy-benzonitrile | C(C)(C)NC1=C(C#N)C=C(C(=C1)OC)OC | C12H16N2O2
